US07423030B2
38.1. 5-methoxy-2-pyridin-3-ylbenzoic acid
This compound is synthesized according to the method described in 3.2. by reacting 2-bromo-5-methoxybenzoic acid pretreated with n-butyllithium with N-methoxy-N-methylnicotinamide. After precipitation in aqueous phase at pH 4, followed by filtration and drying, a beige-coloured powder is obtained.

reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-methoxy-N-methylnicotinamide | CON(C(C1=CN=CC=C1)=O)C | C8H10N2O2
product | 5-methoxy-2-pyridin-3-ylbenzoic acid | COC=1C=CC(=C(C(=O)O)C1)C=1C=NC=CC1 | C13H11NO3
